US04212868
3-Pyridinecarbaldehyde-p-chlorophenylhydrazone (1)
2.2 g of 3-pyridinecarbaldehyde was dissolved in 100 ml of ethanol. The solution was added to a filtered solution of 3.6 g of p-chlorophenylhydrazine hydrochloride and 9.8 g of sodium acetate in 60 ml of 50% by volume aqueous ethanol. The resulting precipitated solid was collected and recrystallized from ethanol to give 1, as a pale yellow prisms, mp 186° C.

reactant | 3-pyridinecarbaldehyde | 2.2 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | p-chlorophenylhydrazine hydrochloride | 3.6 g | Cl.ClC1=CC=C(C=C1)NN
reactant | sodium acetate | 9.8 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Pyridinecarbaldehyde-p-chlorophenylhydrazone | ClC1=CC=C(C=C1)NN=CC=1C=NC=CC1 | C12H10ClN3
